US04197296
11α-N,N-Dimethylamino-5α-pregnan-3α-ol
(Z)-11α-N,N-Dimethylamino-5α-pregn-17(20)-en-3α-ol (750 mg) in ethanol (25 ml) containing 10% Pd-C (511 mg) was stirred under hydrogen for 100 min. The catalyst was removed by filtration through Kieselguhr and the solvent evaporated in vacuo. Purification of the residue by filtration through a plug of silica in ethyl acetate-petroleum ether (2:1) and crystallisation from aqueous methanol gave the title compound (586 mg) m.p. 147°-150°, [α]D -15.0°

reactant | (Z)-11α-N,N-Dimethylamino-5α-pregn-17(20)-en-3α-ol | 750 mg | CN(C)[C@H]1[C@@H]2[C@]3(CC[C@H](C[C@@H]3CC[C@H]2[C@@H]2CC/C(=C/C)/[C@]2(C1)C)O)C | C23H39NO
solvent | ethanol | 25 ml | C(C)O | C2H6O
catalyst | Pd-C | 511 mg | [Pd] | Pd
product | 11α-N,N-Dimethylamino-5α-pregnan-3α-ol | 586 mg | CN(C)[C@H]1[C@@H]2[C@]3(CC[C@H](C[C@@H]3CC[C@H]2[C@@H]2CC[C@H](CC)[C@]2(C1)C)O)C | C23H41NO
